US07026475B2
2,3-Dihydronaphtho[1,8-de][1,3]thiazine-1,1-dioxide
0.06 g of 2-tert-butyl-2,3-dihydro-naphtho[1,8-de][1,3]thiazin-1,1-dioxide is dissolved in 1 mL of dichloromethane and 0.02 mL of trifluoroacetic acid is added. Then the mixture is stirred for a total of 22 hours at reflux temperature and for 96 hours at ambient temperature, while during this period a total of 0.07 mL of trifluoroacetic acid is added. The reaction mixture is evaporated down in vacuo and purified by chromatography. Yield: 0.034 g; m.p.: 206° C.–207° C.

reactant | 2-tert-butyl-2,3-dihydro-naphtho[1,8-de][1,3]thiazin-1,1-dioxide | 0.06 g | C(C)(C)(C)C1S(C=2C3=C(N1)C=CC=C3C=CC2)(=O)=O | C15H17NO2S
reactant | trifluoroacetic acid | 0.02 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 0.07 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2,3-Dihydronaphtho[1,8-de][1,3]thiazine-1,1-dioxide | S1(CNC2=C3C1=CC=CC3=CC=C2)(=O)=O | C11H9NO2S
